US08071623B2
Step 1: 5-Fluoro-3-methyl-2-nitrobenzoic acid (E1)
To a solution of 3-fluoro-5-methylbenzoic acid (1.0 eq.) in conc. H2SO4 was added slowly KNO3 (1.1 eq.) at 0° C. The mixture was stirred at RT for 1 h and then slowly poured into iced water. After stirring to until the ice has completely melted, the white precipitation was filtered, washed with cold water and dried under reduced pressure. The white solid was used without further purification for the next step. 1H NMR (400 MHz, DMSO, 300K) δ 14.08 (1H, br. s), 7.65 (2H, m), 2.30 (3H, s).

reactant | 3-fluoro-5-methylbenzoic acid | 1.0 eq. | FC=1C=C(C(=O)O)C=C(C1)C | C8H7FO2
reactant | KNO3 | 1.1 eq. | [N+](=O)([O-])[O-].[K+]
reactant | water | O | H2O
solvent | H2SO4 | OS(=O)(=O)O | H2O4S
product | 5-Fluoro-3-methyl-2-nitrobenzoic acid | FC=1C=C(C(=C(C(=O)O)C1)[N+](=O)[O-])C | C8H6FNO4
